* C:\Users\USER\Desktop\projects\silvaback-thermostat\hardware\simulation\mosfet-battery-proctection.asc
M1 N004 N003 0 0 Si7386DP
R1 N003 N004 100
V1 N003 0 -10
R2 N002 0 100
V2 N001 0 -10
M2 N001 0 N002 N002 AO6407
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50u startup
* PMOS
* NMOS
.backanno
.end
